US07700637B2
Sodium bicarbonate (159 mg, 1.89 mmol) and 2-amino-6-methylbenzoic acid (95.5 mg, 0.63 mmol) are dissolved in a mixture of 1 mL of THF and 1.5 mL of water and heated to 60° C. A solution of the title C compound, 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl chloride (200 mg, 0.55 mmol) in 1 mL of THF is then added dropwise. The mixture is heated for an additional 2 h at 60° C., after which most of the THF is removed by passing a stream of nitrogen gas over the solution. The residue is partitioned between EtOAc and 1 N aqueous HCl. The organic phase is dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to give crude product which is purified by chromatography on silica gel with an EtOAc (15%)-hexane (85%) mixture (containing 0.5% formic acid) as the eluent to give 2-methyl-6-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonylamino]-benzoic acid as a white solid: m.p. 167-170° C.; ESI-MS 479 [M+1]+.

reactant | Sodium bicarbonate | 1.89 mmol, 159 mg | C([O-])(O)=O.[Na+]
reactant | 2-amino-6-methylbenzoic acid | 0.63 mmol, 95.5 mg | NC1=C(C(=O)O)C(=CC=C1)C | C8H9NO2
reactant | 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl chloride | 0.55 mmol, 200 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl | C17H14ClNO4S
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-methyl-6-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonylamino]-benzoic acid | CC1=C(C(=O)O)C(=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H22N2O6S
